US09169254B2
2-Chloro-N,N-dimethylethylamine hydrochloride (372 mg, 2.58 mmol), potassium iodide (428 mg, 2.58 mmol) and triethylamine (0.719 ml, 5.16 mmol) were added to a solution of 4-bromo-3-methylaniline (400 mg, 2.15 mmol) in toluene (5.0 ml), and the mixture was heated with stirring at 110° C. for 17 hours. The reaction mixture was cooled and water was then added, followed by extraction with ethyl acetate. The organic layer was sequentially washed with water and saturated brine and then concentrated under reduced pressure. The resulting residue was purified by silica gel column chromatography (dichloromethane-methanol) to give N′-(4-bromo-3-methyl-phenyl)-N,N-dimethyl-ethane-1,2-diamine (100 mg, 18%).

reactant | 2-Chloro-N,N-dimethylethylamine hydrochloride | 2.58 mmol, 372 mg | Cl.ClCCN(C)C
reactant | potassium iodide | 2.58 mmol, 428 mg | [I-].[K+]
reactant | triethylamine | 5.16 mmol, 0.719 ml | C(C)N(CC)CC | C6H15N
reactant | 4-bromo-3-methylaniline | 2.15 mmol, 400 mg | BrC1=C(C=C(N)C=C1)C | C7H8BrN
solvent | toluene | 5.0 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
product | N′-(4-bromo-3-methyl-phenyl)-N,N-dimethyl-ethane-1,2-diamine | 100 mg, 18% | BrC1=C(C=C(C=C1)NCCN(C)C)C | C11H17BrN2
